US09145392B2
Step 2: 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-((ethyl(methyl)amino)methyl)pyrimidin-4-amine
To a solution of 4-Amino-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbaldehyde (90.00 mg; 0.18 mmol; 1.00 eq.) in 1 ml DCE added ethyl-methyl-amine (0.02 ml; 0.19 mmol; 1.05 eq.) and sodium p-triacetoxyborohydride (113.20 mg; 0.53 mmol; 3.00 eq.), stirred for overnight at RT, lc-ms showed desired (<30%, major ms 618/619), purified by prep HPLC, collected title compound. LC-MS: (M+1=549, obsd.=549).

reactant | 4-Amino-6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidine-5-carbaldehyde | 0.18 mmol, 90.00 mg, 1.00 eq. | NC1=NC=NC(=C1C=O)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN(C)C | C24H27F4N7O
reactant | ethyl-methyl-amine | 0.19 mmol, 0.02 ml, 1.05 eq. | C(C)NC | C3H9N
solvent | DCE | 1 ml | ClCCCl | C2H4Cl2
product | 6-(4-(1-(2-(dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-((ethyl(methyl)amino)methyl)pyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)CN(C)CC)C | C27H36F4N8
